US07166599B2
2-(4-chlorophenylamino)-4-methylamino-5-amino-pyrimidine
3.0 g of 2-(4-chlorophenylamino)-4-methylamino-5-nitro-pyrimidine are hydrogenated in 300 ml of methanol and 150 ml of dimethylformamide in the presence of 1 g of platinum on charcoal (5% platinum) for one hour at a hydrogen pressure of 50 psi. The reaction mixture is filtered and the filtrate is evaporated to dryness in vacuo. The residue is combined with 40 ml water and stirred for 30 minutes. The solid is suction filtered, washed with water and dried.

reactant | 2-(4-chlorophenylamino)-4-methylamino-5-nitro-pyrimidine | 3.0 g | ClC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC)[N+](=O)[O-] | C11H10ClN5O2
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
catalyst | platinum on charcoal | 1 g | [Pt] | Pt
product | 2-(4-chlorophenylamino)-4-methylamino-5-amino-pyrimidine | ClC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC)N | C11H12ClN5
